US07982036B2
To a stirred solution of 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzaldehyde (100 mg, 0.26 mmol) and acrylonitrile (36 mg, 0.52 mmol) in 1,4-dioxane/H2O (0.5 mL/0.5 mL) was added DABCO (29 mg, 0.26 mmol) at rt. Stirring was continued at room temperature for 48 h after which time the reaction mixture was concentrated under reduced pressure. The residue obtained was further purified by column chromatography (SiO2, 60-120, pet ether/ethyl acetate, 6/4) to give 2-(hydroxy(3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)phenyl)methyl)acrylamide (I-84) as a white solid. 1H NMR (DMSO-d6) δ ppm: 5.33 (s, 1H), 6.06 (s, 1H), 6.20 (s, 1H), 6.25 (s, 1H), 6.80 (s, 1H), 6.88 (s, 1H), 6.95-7.05 (m, 4H), 7.09-7.13 (m, 2H), 7.16 (bd, J=7.92 Hz, 1H), 7.32-7.39 (m, 5H), 7.47 (s, 1H), 8.31 (s, 1H); LCMS: m/e 436 (M+1).

reactant | 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzaldehyde | 0.26 mmol, 100 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC=1C=C(C=O)C=CC1 | C23H18N4O2
reactant | acrylonitrile | 0.52 mmol, 36 mg | C(C=C)#N | C3H3N
reactant | DABCO | 0.26 mmol, 29 mg | C1CN2CCN1CC2 | C6H12N2
reactant | 1,4-dioxane H2O | 0.5 mL | O1CCOCC1.O
product | 2-(hydroxy(3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)phenyl)methyl)acrylamide | OC(C(C(=O)N)=C)C1=CC(=CC=C1)NC1=NC=NC(=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C26H23N5O3
